US07696223B2
a) 1-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 2-bromo-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (514 mg, 1.13 mmol), 10% Pd—C (80 mg), and ammonium formate (1.42 g, 22.6 mmol) in EtOAc (15 mL) was refluxed for two days; then the catalysts were filtered off, the filtrate was concentrated, the left residue was purified on column to give the desired title product, ESI MS (m/z): 377 (M+H+).

reactant | 2-bromo-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.13 mmol, 514 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2C2=CC=CC=C2)Br)C2=CC=C(C=C2)F)O | C22H16BrFN2O3
reactant | ammonium formate | 22.6 mmol, 1.42 g | C(=O)[O-].[NH4+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 80 mg | [Pd] | Pd
product | 1-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O | C22H17FN2O3
